US08008298B2
2-Methyl-2-(tetrahydro-pyran-2-yloxy)-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one, 0.012 gm, was mixed with 0.8 ml acetic acid, 0.4 ml THF and 0.2 ml water and heated for 90 minutes in a 50° C. oil bath. The mixture was concentrated, saturated aqueous sodium bicarbonate was added and the mixture extracted twice with ethyl acetate, dried over magnesium sulfate, filtered and stripped and the solid dried overnight at 2 torr in an 80° C. vacuum oven to give 2-Hydroxy-2-methyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one. (M+H)+=372.

reactant | 2-Methyl-2-(tetrahydro-pyran-2-yloxy)-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)(C)OC2OCCCC2 | C24H29N3O6
reactant | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
reactant | THF | 0.4 ml | C1CCOC1 | C4H8O
solvent | water | 0.2 ml | O | H2O
product | 2-Hydroxy-2-methyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | OC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)(C)C | C19H21N3O5
